US09145441B2
Compound 83a. (R)-3-{(R)-2-[(R)-1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-but-3-enoyl}-4-isopropyl-5,5-dimethyl-oxazolidin-2-one
A cooled (0° C.) solution of (R)-3-[(R)-2-((R)-1-hydroxy-ethyl)-but-3-enoyl]-4-isopropyl-5,5-dimethyl-oxazolidin-2-one (654 mg, 2.43 mmol, prepared as described in Tetrahedron 2009, 65, 7837-7851) and imidazole (727 mg, 10.68 mmol) in N,N-dimethylformamide (5 mL) was treated with tert-butyldimethylsilyl chloride (474 mg, 3.16 mmol). After stirring for 5 h at room temperature, the reaction was quenched with saturated ammonium chloride. The aqueous layer was extracted with diethyl ether (2×20 mL). The organics were combined and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Biotage cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (800 mg, 86%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 3H), 0.09 (s, 3H), 0.84 (s, 9H), 0.92 (d, J=6.7 Hz, 3H), 1.01 (d, J=7.1 Hz, 3H), 1.16 (d, J=6.2 Hz, 3H), 1.40 (s, 3H), 1.50 (s, 3H), 2.05-2.20 (m, 1H), 4.17 (d, J=3.3 Hz, 1H), 4.25-4.40 (m, 1H), 4.67 (t, J=9.1 Hz, 1H), 5.25 (dd, J=10.3, 1.6 Hz, 1H), 5.46 (dd, J=17.2, 1.3 Hz, 1H), 5.65-5.79 (m, 1H).

reactant | (R)-3-[(R)-2-((R)-1-hydroxy-ethyl)-but-3-enoyl]-4-isopropyl-5,5-dimethyl-oxazolidin-2-one | 2.43 mmol, 654 mg | O[C@H](C)[C@H](C(=O)N1C(OC([C@H]1C(C)C)(C)C)=O)C=C | C14H23NO4
reactant | imidazole | 10.68 mmol, 727 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 3.16 mmol, 474 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (R)-3-{(R)-2-[(R)-1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-but-3-enoyl}-4-isopropyl-5,5-dimethyl-oxazolidin-2-one | 800 mg, 86% | C(C)(C)(C)[Si](O[C@H](C)[C@H](C(=O)N1C(OC([C@H]1C(C)C)(C)C)=O)C=C)(C)C | C20H37NO4Si
